US08492378B2
A solution of methyl 3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-carboxylate (6.80 g, 20.2 mmol) and hydrazine monohydrate (9.92 mL, 202.2 mmol) in ethanol (70 mL) was heated under reflux overnight. After cooling, the precipitate was collected by filtration to give 3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-carbohydrazide.

reactant | methyl 3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-carboxylate | 20.2 mmol, 6.80 g | FC(OC=1C=C(C=CC1)C1=COC2=C1C=C(C=C2)C(=O)OC)(F)F | C17H11F3O4
reactant | hydrazine monohydrate | 202.2 mmol, 9.92 mL | O.NN
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-carbohydrazide | FC(OC=1C=C(C=CC1)C1=COC2=C1C=C(C=C2)C(=O)NN)(F)F | C16H11F3N2O3
